US05578627
To a solution of 0.47 g of 5-tert-butoxycarbonylamino-3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-1,2-benzoisoxazole in 10 ml of methylene chloride is added 0.21 g of chlorosulfonyl isocyanate at -45° to -40° C., and the temperature is elevated to 0° C., after which they are subjected to reaction at the same temperature for one hour. Subsequently, 10 ml of water is added, and they are subjected to reaction at 20°-25° C. for one hour. The solvent is removed from the reaction mixture by distillation under reduced pressure, and the crystals obtained are collected by filtration, to obtain 0.47 g of colorless, crystalline 3-(3-carbamoyloxy-2-tert-butoxycarbonylaminopropoxy)-5-tert-butoxycarbonylamino-1,2-benzoisoxazole.

reactant | 5-tert-butoxycarbonylamino-3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-1,2-benzoisoxazole | 0.47 g | C(C)(C)(C)OC(=O)NC=1C=CC2=C(C(=NO2)OCC(CO)NC(=O)OC(C)(C)C)C1 | C20H29N3O7
reactant | chlorosulfonyl isocyanate | 0.21 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | water | 10 ml | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-(3-carbamoyloxy-2-tert-butoxycarbonylaminopropoxy)-5-tert-butoxycarbonylamino-1,2-benzoisoxazole | C(N)(=O)OCC(COC1=NOC2=C1C=C(C=C2)NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C21H30N4O8
